US09108984B2
Step B: Methyl 5-chloro-2-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate
A solution of copper (I) iodide (1.1 g, 5.8 mmol) in triethylamine (32 mL) was degassed with nitrogen, treated with (trimethylsilyl)acetylene (4.5 mL, 32 mmol), degassed with nitrogen, and stirred at 20° C. for 10 minutes. The reaction mixture was treated with bis(triphenylphosphine)palladium(II) chloride (0.56 g, 0.80 mmol), degassed with nitrogen, and stirred at 20° C. for 30 minutes. The reaction mixture was treated with methyl 5-chloro-2-hydroxy-4-iodobenzoate (5.0 g, 16 mmol), degassed with nitrogen, and stirred at 75° C. for 2 hours. The reaction mixture was filtered over celite, washed with ethyl acetate, and concentrated to a crude residue. Purification via flash column chromatography using ethyl acetate in hexanes (0%-20%) gave the desired product (4.31 g, 95%). LCMS for C13H16ClO3Si (M+H)+: m/z=283.1; Found: 282.9.

reactant | (trimethylsilyl)acetylene | 32 mmol, 4.5 mL | C[Si](C)(C)C#C | C5H10Si
reactant | methyl 5-chloro-2-hydroxy-4-iodobenzoate | 16 mmol, 5.0 g | ClC=1C(=CC(=C(C(=O)OC)C1)O)I | C8H6ClIO3
solvent | triethylamine | 32 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 5.8 mmol, 1.1 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.80 mmol, 0.56 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 5-chloro-2-hydroxy-4-[(trimethylsilyl)ethynyl]benzoate | 4.31 g, 95% | ClC=1C(=CC(=C(C(=O)OC)C1)O)C#C[Si](C)(C)C | C13H15ClO3Si
